US04517303
Synthesis of Melittin-Biotin Conjugate
Melittin (1.7 mg) was dissolved in 2 ml of 0.15M sodium phosphate, pH 7.8. To this solution was added 5 mg of N-hydroxysuccinimidobiotin, available commercially from a number of suppliers, and the biotinylation reaction was allowed to proceed at 25° C. for 2 hours. During this time, a large precipitate formed. The precipitate was collected by contrifugation and then dissolved in 1.5 ml of 0.1M sodium acetate buffer, pH 5.6. This sample was then chromatographed on a Sephadex G-25 column (1.5×40 cm) equilibrated in 0.1M sodium acetate, pH 5.6. The melittin-biotin conjugate was identified in the column eluate by monitoring the absorbance at 280 nm. The peak fractions were pooled and stored at 4° C.

reactant | Melittin | 1.7 mg | CC[C@H](C)[C@@H](C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H]([C@@H](C)O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CNC3=C2C=CC=C3)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N)NC(=O)CN | C131H229N39O31
reactant | N-hydroxysuccinimidobiotin | 5 mg | ON1[C@H]2CS[C@@H](CCCC(C(O)=O)N3C(CCC3=O)=O)[C@H]2NC1=O | C14H19N3O6S
solvent | sodium phosphate | 0.15M, 2 ml | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | Melittin Biotin | CC[C@H](C)[C@@H](C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H]([C@@H](C)O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC2=CNC3=C2C=CC=C3)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(=N)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N[C@@H](CCC(=O)N)C(=O)N)NC(=O)CN.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | InChI=1S/C131H229N39O31.C10H16N2O3S/c1-23-71(16)102(163-97(176)60-135)122(194)146-62-98(177)148-74(19)109(181)164-100(69(12)13)124(196)160-88(55-65(4)5)116(188)155-84(41-30-33-51-134)115(187)165-101(70(14)15)125(197)161-90(57-67(8)9)118(190)168-106(77(22)173)128(200)169-105(76(21)172)123(195)147-63-99(178)150-92(58-68(10)11)129(201)170-54-36-44-94(170)121(193)149-75(20)108(180)158-89(56-66(6)7)117(189)166-104(73(18)25-3)127(199)162-93(64-171)120(192)159-91(59-78-61-145-80-38-27-26-37-79(78)80)119(191)167-103(72(17)24-2)126(198)157-83(40-29-32-50-133)111(183)154-85(42-34-52-143-130(139)140)112(184)152-82(39-28-31-49-132)110(182)153-86(43-35-53-144-131(141)142)113(185)156-87(46-48-96(137)175)114(186)151-81(107(138)179)45-47-95(136)174;13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9/h26-27,37-38,61,65-77,81-94,100-106,145,171-173H,23-25,28-36,39-60,62-64,132-135H2,1-22H3,(H2,136,174)(H2,137,175)(H2,138,179)(H,146,194)(H,147,195)(H,148,177)(H,149,193)(H,150,178)(H,151,186)(H,152,184)(H,153,182)(H,154,183)(H,155,188)(H,156,185)(H,157,198)(H,158,180)(H,159,192)(H,160,196)(H,161,197)(H,162,199)(H,163,176)(H,164,181)(H,165,187)(H,166,189)(H,167,191)(H,168,190)(H,169,200)(H4,139,140,143)(H4,141,142,144);6-7,9H,1-5H2,(H,13,14)(H2,11,12,15)/t71-,72-,73-,74-,75-,76+,77+,81-,82-,83-,84-,85-,86-,87-,88-,89-,90-,91-,92-,93-,94-,100-,101-,102-,103-,104-,105-,106-;6-,7-,9-/m00/s1
